US08124606B2
Methyltriphenylphosphonium bromide (1.429 g, 4.00 mmol) was suspended in THF (Ratio: 1.667, Volume: 2.5 ml) and cooled to −78° C. n-butyllithium (0.960 ml, 2.400 mmol) was added dropwise over 3 min and the resulting yellow suspension was stirred at −78° C. for 10 min. A solution of 1-(4-chlorophenyl)piperidin-4-one (0.419 g, 2 mmol) in THF (Ratio: 1.000, Volume: 1.5 ml) was added dropwise over 3 min and the dark red suspension was stirred at −78° C. for 10 min and then allowed to slowly warm to 5° C. over 1 h. The reaction was stirred at 5° C. for 4 h and was quenched with water (4 mL). This was extracted with ethyl ether (2×5 mL) and the extracts were washed with water (4×5 mL). The combined water washes were back-extracted with ethyl ether (5 mL) and the combined organic extracts were washed with brine (5 ml), dried (MgSO4), filtered and concentrated in vacuo. Flash column chromatography (40 g SiO2, hexanes:ethyl acetate 9:1) afforded 1-(4-chlorophenyl)-4-methylenepiperidine (0.196 g, 0.944 mmol, 47.2% yield) as a clear yellow oil. [M+H] calc'd for C12H14Cl, 208. found, 208.

reactant | n-butyllithium | 2.400 mmol, 0.960 ml | C(CCC)[Li]
reactant | 1-(4-chlorophenyl)piperidin-4-one | 2 mmol, 0.419 g | ClC1=CC=C(C=C1)N1CCC(CC1)=O | C11H12ClNO
catalyst | Methyltriphenylphosphonium bromide | 4.00 mmol, 1.429 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 1-(4-chlorophenyl)-4-methylenepiperidine | 0.944 mmol, 0.196 g, 47.2% yield | ClC1=CC=C(C=C1)N1CCC(CC1)=C | C12H14ClN
